### PR TITLE
[Merged by Bors] - feat: lift star-preserving actions to actions between unitary groups

### PR DESCRIPTION
**Pull request by j-loreaux**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Star/Unitary.lean [hunk 1]
```diff
@@ -172,6 +172,27 @@ lemma _root_.isStarNormal_of_mem_unitary {u : R} (hu : u ∈ unitary R) : IsStar
...
 end Monoid
 
+section SMul
+
+variable {A : Type*} [Monoid R] [Monoid A] [MulAction R A] [SMulCommClass R A A]
+    [IsScalarTower R A A] [StarMul R] [StarMul A] [StarModule R A]
+
+instance : SMul (unitary R) (unitary A) where
+  smul r a := ⟨r • a, by
+    simp [Submonoid.smul_def, mem_iff, smul_smul, mul_smul_comm, smul_mul_assoc]⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Unitary.lean]: This is probably worth having as a `smul_mem` lemma.

File: Mathlib/Algebra/Star/Unitary.lean [hunk 2]
```diff
@@ -172,6 +172,27 @@ lemma _root_.isStarNormal_of_mem_unitary {u : R} (hu : u ∈ unitary R) : IsStar
 
 end Monoid
 
+section SMul
+
+variable {A : Type*} [Monoid R] [Monoid A] [MulAction R A] [SMulCommClass R A A]
+    [IsScalarTower R A A] [StarMul R] [StarMul A] [StarModule R A]
+
+instance : SMul (unitary R) (unitary A) where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Unitary.lean:203]: Can you add the `IsScalarTower` and `SMulCommClass` instances too?

File: Mathlib/Algebra/Star/Unitary.lean [hunk 3]
```diff
@@ -191,6 +198,12 @@ instance : MulAction (unitary R) (unitary A) where
 instance : StarModule (unitary R) (unitary A) where
   star_smul _ _ := Subtype.ext <| star_smul (_ : R) _
 
+instance : SMulCommClass (unitary R) (unitary A) (unitary A) where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Unitary.lean]:
```suggestion
instance : SMulCommClass (unitary R) (unitary S) (unitary A) where
```
and below

File: Mathlib/Algebra/Star/Unitary.lean [hunk 4]
```diff
@@ -172,6 +172,57 @@ lemma _root_.isStarNormal_of_mem_unitary {u : R} (hu : u ∈ unitary R) : IsStar
...
+  simp [mem_iff, smul_smul, mul_smul_comm, smul_mul_assoc, hr, ha]
+
+lemma smul_mem (r : unitary R) {a : A} (ha : a ∈ unitary A) :
+    r • a ∈ unitary A :=
+  smul_mem_of_mem (R := R) r.prop ha
+
+instance : SMul (unitary R) (unitary A) where
+  smul r a := ⟨r • a, smul_mem r a.prop⟩
+
+@[simp]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Unitary.lean]:
```suggestion
@[simp, norm_cast]
```
probably

File: Mathlib/Algebra/Star/Unitary.lean [hunk 5]
```diff
@@ -172,6 +172,57 @@ lemma _root_.isStarNormal_of_mem_unitary {u : R} (hu : u ∈ unitary R) : IsStar
...
+
+lemma smul_mem_of_mem {r : R} {a : A} (hr : r ∈ unitary R) (ha : a ∈ unitary A) :
+    r • a ∈ unitary A := by
+  simp [mem_iff, smul_smul, mul_smul_comm, smul_mul_assoc, hr, ha]
+
+lemma smul_mem (r : unitary R) {a : A} (ha : a ∈ unitary A) :
+    r • a ∈ unitary A :=
+  smul_mem_of_mem (R := R) r.prop ha
+
+instance : SMul (unitary R) (unitary A) where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/Unitary.lean:203]: Could consider a docstring here if there's anything interesting to say about this instance.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

**Comment by j-loreaux** [comment]
bors merge
